US05451596
A mixture of 2-cyclohexan-1-ol (0.63 ml; 6.4 mmol) and sodium hydride (60%; 384 g; 9.6 mmol) in 30 ml dry THF is refluxed overnight. The solution is cooled and 4-(benzoxazol-2-yl)benzyl bromide (1.95 g; 6.75 mmol) is added in one portion and refluxing continued for 5 hrs. The solution is quenched with the addition of 2 ml H2O, concentrated in vacuo poured into H2O and extracted with 2×100 ml CH2Cl2, dried (Na2SO4), concentrated in vacuo and flash chromatographed using 9:1 6:1; hexane:EtOAc to obtain 3-[3-(benzoxazol-2-yl)benzyloxy]cyclohexane which is used directly in the next step.

reactant | sodium hydride | 9.6 mmol, 384 g | [H-].[Na+]
reactant | 4-(benzoxazol-2-yl)benzyl bromide | 6.75 mmol, 1.95 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-[3-(benzoxazol-2-yl)benzyloxy]cyclohexane | O1C(=NC2=C1C=CC=C2)C=2C=C(COC1CCCCC1)C=CC2 | C20H21NO2
